US06506901B2
Step B: 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorophenyl Formate
4-{[t-butyl(diphenyl)silyl]oxy}-2-chlorobenzaldehyde (11.00 g, 28 mmol) was dissolved in CHCl3 (150 ml). In one portion m-chloroperbenzoic acid (MCPBA) (7.21 g, 41.8 mmol) was added and the solution heated to reflux for 72 h. The solution was diluted with CH2Cl2, washed with sat. NaHSO3, sat. NaHCO3, brine and dried (MgSO4). The solvent was removed to provide 9.42 g of the title compound.

reactant | 4-{[t-butyl(diphenyl)silyl]oxy}-2-chlorobenzaldehyde | 28 mmol, 11.00 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC(=C(C=O)C=C1)Cl | C23H23ClO2Si
reactant | m-chloroperbenzoic acid | 41.8 mmol, 7.21 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | CHCl3 | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorophenyl Formate | 9.42 g | C(=O)OC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)Cl | C23H23ClO3Si
